US09227962B2
To a solution of 5-iodoindolin-2-one (518 mg, 2 mmol), TEA (3 ml) and CuI (38 mg) in DMF (3 ml) was added to PdCl2(PPh3)2 (70 mg). The mixture was cooled to 0° C. and a solution of TMS-acetylene (1 ml). The mixture was maintained same temperature for 3 h, then warmed to rt. After stirring for overnight, the reaction mixture was concentrated in vacuo. The residue was purified by silica gel column chromatography to give 5-((trimethylsilyl)ethynyl)indolin-2-one (451 mg).

reactant | 5-iodoindolin-2-one | 2 mmol, 518 mg | IC=1C=C2CC(NC2=CC1)=O | C8H6INO
reactant | TMS-acetylene | 1 ml | [Si](C)(C)(C)C#C | C5H10Si
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | CuI | 38 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-((trimethylsilyl)ethynyl)indolin-2-one | 451 mg | C[Si](C)(C)C#CC=1C=C2CC(NC2=CC1)=O | C13H15NOSi
